US06013658
Oxalyl chloride (4.24 mL, 48.61 mmol) was dissolved in dichloromethane (30 mL). The solution was cooled to -63° C. A solution of DMSO (4.6 mL, 64.81 mmol) in dichloromethane (20 mL) was added dropwise. The solution was stirred for 5 min and a solution of N-((1R)-1-(hydroxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester (8.6 g, 32.41 mmol) in dichloromethane (200 mL) was added dropwise over a period of 30 min. The reaction mixture was stirred for 20 min at -63° C. A solution of triethylamine (18.07 mL, 129.62 mmol) in dichloromethane (40 mL) was added over a period of 25 min. The solution was warmed to -35° C. and immediately cooled to -63° C. It was stirred at this temp. for 1 h. Acetic acid (8.15 mL, 142.58 mmol) was added. The reaction mixture was warmed to 10° C. and washed with water (2×200 mL) and satd. sodium hydrogencarbonate solution (150 mL). The org. phase was dried over magnesium sulfate. The solvent was removed in vacuo to give 7.536 of N-((1R)-1-formyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester.

reactant | Oxalyl chloride | 48.61 mmol, 4.24 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 64.81 mmol, 4.6 mL | CS(=O)C | C2H6OS
reactant | N-((1R)-1-(hydroxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 32.41 mmol, 8.6 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)CO)=O | C15H23NO3
reactant | triethylamine | 129.62 mmol, 18.07 mL | C(C)N(CC)CC | C6H15N
reactant | Acetic acid | 142.58 mmol, 8.15 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-((1R)-1-formyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C=O)=O | C15H21NO3
